US06239131B1
Preparation of 2-oxo-3-benzyloxycarbonylamino-5-phenyl-8-methoxy-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
Preparation of 2-oxo-3-benzyloxycarbonylamino-5-phenyl-8-methoxy-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine 1-Methoxymethyl-2-oxo-3-amino-5-phenyl-8-methoxy-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (200 mg) was dissolved in 25% hydrobromic acid-acetic acid solution (1 ml), the solution was stirred for 2 hours. The reaction mixture was concentrated under reduced pressure, diisopropyl ether was added, the solid so precipitated was collected by filtration. The solid was dissolved in water (3 ml), a solution of benzyl chloroformate (140 mg) in tetrahydrofuran (3 ml) and 1N aqueous sodium hydroxide (2.8 ml) were successively added, and the mixture was stirred for one hours. Water was added to the resultant mixture, extracted with methylene chloride. The organic layer was successively washed with water and saturated brine, dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1), to thereby obtain 107 mg of the titled compound as colorless amorphous.

reactant | 2-oxo-3-benzyloxycarbonylamino-5-phenyl-8-methoxy-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine 1-Methoxymethyl-2-oxo-3-amino-5-phenyl-8-methoxy-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 200 mg | COCN1C(C(CN(C2=C1C=C(C=C2)OC)C2=CC=CC=C2)N)=O.O=C2C(CN(C1=C(N2)C=C(C=C1)OC)C1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1
solvent | hydrobromic acid acetic acid | 1 ml | Br.C(C)(=O)O
product | 2-oxo-3-benzyloxycarbonylamino-5-phenyl-8-methoxy-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 107 mg | O=C1C(CN(C2=C(N1)C=C(C=C2)OC)C2=CC=CC=C2)NC(=O)OCC2=CC=CC=C2 | C24H23N3O4
